US06632826B1
A solution of 4-benzyl-5-(2-tert-butylcarbamoyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.1 g, 2.2 mmol) in dry methanol (20 ml) was stirred at room temperature under nitrogen during the addition of cerium chloride (1.8 g, 4.84 mmol). The resulting mixture was stirred at room temperature for 30 minutes, then cooled to −78° C. and treated with sodium borohydride (183 mg, 4.84 mmol). The resulting suspension was allowed to warm to 0° C. over 90 min, then partitioned between ethyl acetate and a mixture of saturated aqueous ammonium chloride solution and brine. The two layers were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic layers were dried (anhydrous magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate/hexane: 1/1 to 2/1) provided 4-benzyl-5-(2-tert-butylcarbamoyl-4-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (860 mg).

reactant | 4-benzyl-5-(2-tert-butylcarbamoyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 2.2 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)=O)C(NC(C)(C)C)=O)(C)C | C29H44N2O5
reactant | cerium chloride | 4.84 mmol, 1.8 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | sodium borohydride | 4.84 mmol, 183 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-benzyl-5-(2-tert-butylcarbamoyl-4-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 860 mg | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)O)C(NC(C)(C)C)=O)(C)C | C29H46N2O5
